US07183411B2
4-Chloro-3-trifluoromethyl-benzylamine (150 mg, 0.71 mmol) and (7-hydroxy-naphthalen-1-yl)-carbamic acid phenyl ester (200 mg, 0.7 mmol) were combined and stirred at ambient temperature in DMSO (3 mL) overnight. The product was purified by directly injecting the crude reaction onto a reverse phase prep-HPLC (90–10% water:acetonitrile gradient). The appropriate fractions were lyophilized to yield 1-(4-Chloro-3-trifluoromethyl-benzyl)-3-(7-hydroxy-naphthalen-1-yl)-urea (212.7 mg, 0.54 mmol). MS (MH+) 394.9; 1H NMR (CD3OD) δ 4.41 (s, 2H), 7.09 (dd, 1H, J=2.4 Hz), 7.21–7.26 (m, 2H), 7.46 (d, 1H, J=7.3 Hz), 7.54 (d, 2H, J=1.0 Hz), 7.62 (d, 1H, J=8.2 Hz), 7.71–7.75 (m, 2H). HPLC Rt=4.4 min (90–10% water:acetonitrile gradient, 100% pure).

reactant | 4-Chloro-3-trifluoromethyl-benzylamine | 0.71 mmol, 150 mg | ClC1=C(C=C(CN)C=C1)C(F)(F)F | C8H7ClF3N
reactant | (7-hydroxy-naphthalen-1-yl)-carbamic acid phenyl ester | 0.7 mmol, 200 mg | C1(=CC=CC=C1)OC(NC1=CC=CC2=CC=C(C=C12)O)=O | C17H13NO3
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-(4-Chloro-3-trifluoromethyl-benzyl)-3-(7-hydroxy-naphthalen-1-yl)-urea | 0.54 mmol, 212.7 mg | ClC1=C(C=C(CNC(=O)NC2=CC=CC3=CC=C(C=C23)O)C=C1)C(F)(F)F | C19H14ClF3N2O2
